US05770455
Glycyl-L-phenylalanyl-L-leucine (552 mg, 1.5 mmol, Bachem) is dissolved in a solution containing distilled water (10 mL) and 1M NaOH (1.5 mL). The solution is cooled in an ice bath and treated with a solution of di-tert-butyl pyrocarbonate (337 mg, 1.5 mmol) in p-dioxane (12 mL). The solution is stirred for 4 hours at room temperature, after which the solution is concentrated to dryness in vacuo, the residue taken up in water (5 mL) and the pH adjusted to 2.5 by the addition of 1M KHSO4. The aqueous suspension is extracted with ethyl acetate (2×, 15 mL), the organic layer separated and dried over magnesium sulfate. After removal of the solvent in vacuo the residue can be titurated with hexane to yield Boc-Gly-L-Phe-L-Leu-OH as a white solid.

reactant | Glycyl-L-phenylalanyl-L-leucine | 1.5 mmol, 552 mg | NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C17H25N3O4
reactant | di-tert-butyl pyrocarbonate | 1.5 mmol, 337 mg | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | p-dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | Boc-Gly-L-Phe-L-Leu-OH | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C22H33N3O6
